US05173484
b) 4-Ethylaminomethyl-4-hydroxypiperidine dihydrochloride
4.6 g (20 mmol) of ethyl 4-ethylaminomethyl-4-hydroxypiperidine-1-carboxylate is heated overnight under reflux with 35 ml of concentrated hydrochloric acid. The product is concentrated, and the crystals are triturated with acetone, filtered off with suction and dried in a vacuum desiccator over P4O10.

reactant | ethyl 4-ethylaminomethyl-4-hydroxypiperidine-1-carboxylate | 20 mmol, 4.6 g | C(C)NCC1(CCN(CC1)C(=O)OCC)O | C11H22N2O3
reactant | hydrochloric acid | 35 ml | Cl | ClH
product | 4-Ethylaminomethyl-4-hydroxypiperidine dihydrochloride | Cl.Cl.C(C)NCC1(CCNCC1)O | InChI=1S/C8H18N2O.2ClH/c1-2-9-7-8(11)3-5-10-6-4-8;;/h9-11H,2-7H2,1H3;2*1H
